US07511048B2
To a stirring solution of 2-{6-[(3-chloro-4-fluorophenyl)amino]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl}ethanol (2.6 g, 6.25 mmol) in dioxane (25 mL) was added 2,3-dichloro-5,6-dicyanobenzoquinone (2.1 g, 9.38 mmol). The reaction mixture was heated to 90° C. for 2.5 h. The solid was filtered and separated by column chromatograph (90% methylene chloride/10% methanol) to give 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraazacyclopenta[a]fluoren-2-yl]-ethanol as a brown solid (3.0 g, yield 116% containing some carried over silica gel). 1H-NMR (DMSO-d6) δ 9.25 (bs, 1H), 8.80 (s, 1H), 8.60 (s, 1H), 8.40 (t, 1H), 7.90 (d, 1H), 7.80 (d, 1H), 7.60 (m, 1H), 7.40 (t, 1H), 4.50 (t, 2H), 3.90 (t, 2H); LCMS RT=2.95 min; [M+H]+=414.2.

reactant | 2-{6-[(3-chloro-4-fluorophenyl)amino]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl}ethanol | 6.25 mmol, 2.6 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)CCO)S2 | C19H15ClFN5OS
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 9.38 mmol, 2.1 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraazacyclopenta[a]fluoren-2-yl]-ethanol | yield 116% | ClC=1C=C(C=CC1F)NC1=C2C=3C=CC=4C(C3SC2=NC=N1)=CN(N4)CCO | C19H13ClFN5OS
